US05149357
To a stirred solution of 3.3 grams (0.014 mole) of ethyl 6-phenylsalicylate in 30 mL of ethanol was added a catalytic amount of 1,4,7,10,13,16-hexaoxacyclooctadecane. This was followed by the addition of a solution of 2.0 grams (0.030 mole) of 85% potassium hydroxide in 15 mL of water. Upon completion of addition, the reaction mixture was warmed to reflux where it was stirred for 4 hours. The reaction mixture was allowed to cool to ambient temperature where it stood for about 18 hours. After this time the reaction mixture was again warmed to reflux where it stirred for 4 hours. Thin layer chromatographic analysis of the reaction mixture indicated the reaction had not gone to completion. An additional 0.3 gram of 85% potassium hydroxide was added to the reaction mixture and the heating at reflux was continued for another 3 hours. After this time the reaction mixture was cooled, and volatile materials were removed under reduced pressure. The aqueous concentrate was washed with two portions of diethyl ether. The combined ether washes were backwashed with water. The water washes and the aqueous concentrate were combined, and the combination was acidified to pH 1 with concentrated hydrochloric acid. The mixture was extracted with three portions of ethyl acetate. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was dissolved in hot ethanol, and the solution was treated with decolorizing carbon. The mixture was filtered through diatomaceous earth, and the filtrate was concentrated under reduced pressure to a residue. The residue was recrystallized from diethyl ether and hexane to yield 6-phenylsalicylic acid, m.p. 143°-146°. The filtrate from the recrystallization was concentrated under reduced pressure to a residual solid. The residue was combined with the 6-phenylsalicylic acid, m.p. 143°-146° C., yielding 2.8 grams of this material.

reactant | ethyl 6-phenylsalicylate | 0.014 mole, 3.3 grams | C1(=CC=CC=C1)C=1C=CC=C(C1C(=O)OCC)O | C15H14O3
reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
reactant | potassium hydroxide | 0.030 mole, 2.0 grams | [OH-].[K+]
reactant | potassium hydroxide | 0.3 gram | [OH-].[K+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
product | 6-phenylsalicylic acid | C1(=CC=CC=C1)C=1C=CC=C(C1C(=O)O)O | C13H10O3
